US07235569B2
To a stirred suspension of LiAlH4 (200 mg, excess) in THF at 0° C., naphtho[1,2-b]furan-3-yl-acetic acid ethyl ester (1.27 g, 5 mmol) in THF (20 mL) was added slowly. After the addition, reaction mixture was stirred at room temperature for 1 hr and quenched with saturated NH4Cl solution. The product was extracted with chloroform and washed well with water. It was dried over anhydrous MgSO4; filtered and concentrated. The product, 2-naphtho[1,2-b]furan-3-yl ethanol, was obtained as white oil, was pure enough and taken to the next step without purification. Yield: 900 mg (84%); 213 (M+H).

reactant | LiAlH4 | 200 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | naphtho[1,2-b]furan-3-yl-acetic acid ethyl ester | 5 mmol, 1.27 g | C(C)OC(CC=1C2=C(OC1)C1=CC=CC=C1C=C2)=O | C16H14O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-naphtho[1,2-b]furan-3-yl ethanol | O1C2=C(C(=C1)CCO)C=CC1=CC=CC=C12 | C14H12O2
